.title vm_NOR2_tied
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=3.3
Vdd vdd 0 {VDD}
Vin in 0 {VDD/2}
X1 p1 in vdd vdd PMOS33 W={(3.5886)*1e-6} L=0.35u
X2 out in p1 vdd PMOS33 W={(3.5886)*1e-6} L=0.35u
X3 out in 0 0 NMOS33 W={(0.3000)*1e-6} L=0.35u
X4 out in 0 0 NMOS33 W={(0.3000)*1e-6} L=0.35u
.control
foreach cs 0 1 2 3 4
 foreach vd 2.970 3.300 3.630
  foreach tp -55 27 150
   alterparam case=$cs
   alterparam VDD=$vd
   reset
   option temp=$tp
   let half=$vd/2
   dc Vin 0 $vd 0.00660
   meas dc vm find v(in) when v(out)=$&half cross=1
   echo "RES cfg=tied cs=$cs vd=$vd tp=$tp vm=$&vm"
  end
 end
end
.endc
.end
